US04371537
To 4.96 g of p-hydroxybenzophenone in a 25 ml THF/25 ml DMSO mixture was added 3.1 g of t-BuOK and then 9.69 g of 2.5-bis((phenylmethyl)sulfonyl)pyridine and the resulting mixture heated at 60° C. for 11/2 hrs. The reaction mixture was allowed to cool overnight, diluted with 4 volumes of water, and the golden-brown precipitate which formed removed by filtration. Recrystallization from CH2Cl2 /ethanol and then from toluene gave the product, phenyl(4-((5-((phenylmethyl)sulfonyl)-2-pyridinyl)oxy)phenyl)methanone, (44% yield), as tan prisms, m.p. 146°-147° C.

reactant | p-hydroxybenzophenone | 4.96 g | OC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C13H10O2
reactant | THF | 25 ml | C1CCOC1 | C4H8O
reactant | t-BuOK | 3.1 g | CC(C)(C)[O-].[K+]
reactant | 2.5-bis((phenylmethyl)sulfonyl)pyridine | 9.69 g | C1(=CC=CC=C1)CS(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)CC1=CC=CC=C1 | C19H17NO4S2
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | phenyl(4-((5-((phenylmethyl)sulfonyl)-2-pyridinyl)oxy)phenyl)methanone | 44% yield | C1(=CC=CC=C1)C(=O)C1=CC=C(C=C1)OC1=NC=C(C=C1)S(=O)(=O)CC1=CC=CC=C1 | C25H19NO4S
